US04739050
3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2-phenylthio-2H-1,4-benzothiazine (compound No. 9)
To a stirred solution of thiophenol (6.7 ml) in tetrahydrofuran (15 ml), 2-chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (4.0 g, compound No. 2) is added. The mixture is stirred for 3 hours at room temperature, and then concentrated in vacuo. The residue is purified by silica gel column chromatography to give 4.5 g (90.0%) of the titled compound.

reactant | thiophenol | 6.7 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 2-chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | ClC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C15H12ClNO2S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2-phenylthio-2H-1,4-benzothiazine | 4.5 g, 90.0% | OC1=CC=C(C=C1)C1(SC2=C(N(C1=O)C)C=CC=C2)SC2=CC=CC=C2 | C21H17NO2S2
